US03988341
A mixture of 0.89 g. (10 mmole) of 3-aminopropionic acid and 1.77 g. (10 mmole) of 1-chloromethylnaphthalene in 10 ml. dimethylsulfoxide is stirred at 60° C. for 7 hours. Water, 80 ml., is added to the cooled reaction mixture followed by a saturated sodium carbonate solution until a pH of 8 is obtained. The product is extracted into 50 ml. ethyl ether which is then washed with three 20 ml.. portions of water. After drying the ether extract over 12 g. anhydrous sodium sulfate and filtering directly into a solution of 1.0 g. fumaric acid in 30 ml. methanol, solvents are removed under reduced pressure (15-20 mm.) at 35°-40° C. The residue is recrystallized by dissolving in 25 ml. warm methanol and precipitating with 50 ml. ethyl acetate to give 1-naphthylmethyl 3-aminopropionate hydrogen fumarate, m.p. 160.7°-162.7° C. An analytical sample, m.p. 159.2°-161.2° C., is obtained after recrystallization from a similar methanol-ethyl acetate mixture.

reactant | 3-aminopropionic acid | 10 mmole | NCCC(=O)O | C3H7NO2
reactant | 1-chloromethylnaphthalene | 10 mmole | ClCC1=CC=CC2=CC=CC=C12 | C11H9Cl
reactant | dimethylsulfoxide | CS(=O)C | C2H6OS
reactant | sodium carbonate | C([O-])([O-])=O.[Na+].[Na+]
solvent | Water | O | H2O
product | 1-naphthylmethyl 3-aminopropionate hydrogen fumarate | C(\C=C\C(=O)O)(=O)O.NCCC(=O)OCC1=CC=CC2=CC=CC=C12 | InChI=1S/C14H15NO2.C4H4O4/c15-9-8-14(16)17-10-12-6-3-5-11-4-1-2-7-13(11)12;5-3(6)1-2-4(7)8/h1-7H,8-10,15H2;1-2H,(H,5,6)(H,7,8)/b;2-1+
